US03931247
4-[5-(1-Hydroxyethyl)-2-furyl]benzonitrile
To a solution of 2.1 g (0.01 mole) of p-(5-acetyl-2-furyl)benzonitrile and 40 ml of 95% dioxane/water was added portionwise 0.37 g (0.10 mole) of NaBH4 while maintaining the temperature at 15°-20° by means of an ice bath. The reaction was stirred at room temperature for 3 hours and then added to ice/water with a precipitate forming. The precipitate was filtered and dried in vacuum pistol at room temperature to yield 1.6 g (75%), n.p. 79°-82°, of title compound.

reactant | p-(5-acetyl-2-furyl)benzonitrile | 0.01 mole, 2.1 g | C(C)(=O)C1=CC=C(O1)C1=CC=C(C#N)C=C1 | C13H9NO2
reactant | NaBH4 | 0.10 mole, 0.37 g | [BH4-].[Na+]
solvent | dioxane water | 40 ml | O1CCOCC1.O
product | 4-[5-(1-Hydroxyethyl)-2-furyl]benzonitrile | OC(C)C1=CC=C(O1)C1=CC=C(C#N)C=C1 | C13H11NO2
